US08912169B2
Step 2: Synthesis of (4-tert-Butoxycarbonylamino-1-hydroxy-cyclohexyl)-acetic acid
A solution of (4-Benzylamino-1-hydroxy-cyclohexyl)-acetic acid benzyl ester (1.41 g, 3.99 mmol) and di-tert-butyl dicarbonate (0.952 g, 4.36 mmol) in ethanol (35 mL) was purged with argon for 5 min. Palladium hydroxide (20%, 0.608 g) was added, the flask evacuated, and the reaction stirred under a H2 atmosphere at 65° C. for 43 hr. The reaction was cooled to RT, filtered through a Celite-plugged filter frit, washed with methanol and DCM, and concentrated. The crude product was carried forward without purification. ESI-MS m/z 296 (M+Na)+.

reactant | (4-Benzylamino-1-hydroxy-cyclohexyl)-acetic acid benzyl ester | 3.99 mmol, 1.41 g | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)NCC1=CC=CC=C1)O)=O | C22H27NO3
reactant | di-tert-butyl dicarbonate | 4.36 mmol, 0.952 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 35 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide | 0.608 g | [OH-].[Pd+2].[OH-]
product | (4-tert-Butoxycarbonylamino-1-hydroxy-cyclohexyl)-acetic acid | C(C)(C)(C)OC(=O)NC1CCC(CC1)(O)CC(=O)O | C13H23NO5
